US06432982B1
[2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][3-cyano-4-methoxyphenyl]methanone
1.8 g of the title compound was prepared from 3.9 g (3.9 mmol) of 3-cyano-4-methoxybenzoic acid (converted to the acid chloride with 30 mL of SOCl2 and three drops of DMF), 6 g (22 mmol) of 2-(4-methoxyphenyl)-6-methoxybenzo[b]thiophene, and 14.7 g (110 mmol) of AlCl3 in a manner similar to that in Preparation 4.

reactant | 3-cyano-4-methoxybenzoic acid | 3.9 mmol, 3.9 g | C(#N)C=1C=C(C(=O)O)C=CC1OC | C9H7NO3
reactant | 2-(4-methoxyphenyl)-6-methoxybenzo[b]thiophene | 22 mmol, 6 g | COC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)OC | C16H14O2S
reactant | AlCl3 | 110 mmol, 14.7 g | [Al+3].[Cl-].[Cl-].[Cl-]
catalyst | DMF | three drops | CN(C)C=O | C3H7NO
solvent | SOCl2 | 30 mL | O=S(Cl)Cl | Cl2OS
product | [2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][3-cyano-4-methoxyphenyl]methanone | 1.8 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC(=C(C=C2)OC)C#N | C25H19NO4S
